US08877975B2
General Procedure H2 - Reductive Amination: A mixture of 1-(4-(trifluoromethyl)phenyl)cyclohexanecarbaldehyde (256 mg, 1.0 mmol) and methylamine (2.0 M in THF, 3 ml, 6.0 mmol) in 1,2-dichloroethane was stirred at room temperature for 30 min and was then treated with sodium triacetoxyborohydride (297 mg, 1.4 mmol). The reaction mixture was stirred at room temperature overnight and was then quenched with aqueous saturated NaHCO3 solution (10 ml). The product was extracted with EtOAc (3 ×10 ml). The combined organic layers were dried over MgSO4 and evaporated in vacuo. The residue was purified by silica gel column chromatography (MeOH/CH2Cl2, MeOH from 0% to 20%) to give N-methyl-1-(1-(4-(trifluoromethyl)phenyl)cyclohexyl)methanamine (178 mg, 66%). 1H NMR (CDCl3): δ 1.26-1.52 (m 4H), 1.54-1.61 (m, 2H), 1.66-1.73 (m, 2H), 2.13-2.18 (m, 2H), 2.28 (s, 3H), 2.63 (s, 2H), 7.49 (d, J=8.0 Hz, 2H), 7.59 (d, J=8.0 Hz, 2H). 13C NMR (CDCl3) δ 22.3, 26.7, 34.7, 37.5, 42.9, 64.5, 125.4, 125.9, 127.6, 128.3, 150.2.ESI MS m/z 271.

reactant | 1-(4-(trifluoromethyl)phenyl)cyclohexanecarbaldehyde | 1.0 mmol, 256 mg | FC(C1=CC=C(C=C1)C1(CCCCC1)C=O)(F)F | C14H15F3O
reactant | methylamine | 6.0 mmol, 2.0 M, 3 ml | CN | CH5N
reactant | sodium triacetoxyborohydride | 1.4 mmol, 297 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-methyl-1-(1-(4-(trifluoromethyl)phenyl)cyclohexyl)methanamine | 178 mg, 66% | CNCC1(CCCCC1)C1=CC=C(C=C1)C(F)(F)F | C15H20F3N
